US07566724B2
Under an argon atmosphere, a solution of N-(4-iodophenyl)pyrimidin-2-amine (100 mg) in anhydrous DMF (1.0 ml) was added to a suspension of sodium hydride (16 mg) in anhydrous DMF (1.0 ml), and the resulting mixture was stirred at room temperature for 30 minutes. To the reaction solution, a solution of 3-bromopropionitrile (0.04 ml) in anhydrous DMF (0.5 ml) was added, and the resulting mixture was stirred at room temperature overnight. Saturated brine was added to the reaction solution and the resulting mixture was extracted with chloroform. Organic layer was dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: hexane/chloroform=1/10) to obtain 3-(N-(4-iodophenyl)-N-(pyrimidin-2-yl)amino)propanenitrile (94 mg). NMR (H1, CDCl3): δ 2.82(2H, t, J=6.8 Hz), 4.24 (2H, t, J=6.8 Hz), 6.68 (1H, t, J=4.9 Hz), 7.06-7.10 (2H, m), 7.74-7.78 (2H, m), 8.35 (2H, d, J=4.9 Hz)

reactant | N-(4-iodophenyl)pyrimidin-2-amine | 100 mg | IC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8IN3
reactant | sodium hydride | 16 mg | [H-].[Na+]
reactant | 3-bromopropionitrile | 0.04 ml | BrCCC#N | C3H4BrN
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 3-(N-(4-iodophenyl)-N-(pyrimidin-2-yl)amino)propanenitrile | 94 mg | IC1=CC=C(C=C1)N(C1=NC=CC=N1)CCC#N | C13H11IN4
